US05063235
4-[Bis(4-fluorophenyl)hydroxymethyl]-1-piperidinepentanol hemihydrate
A solution of 16.8 g (0.040 mol) of 4-[bis(4-fluorophenyl)hydroxymethyl]-1-piperidinepentanoic acid ethyl ester in 100 mL of dry (freshly distilled from lithium aluminum hydride) tetrahydrofuran was added dropwise to a solution of 3.8 g (0.100 mol) of lithium aluminum hydride in 100 mL of dry tetrahydrofuran while stirring vigorously at ambient temperature for 1 h and the excess lithium aluminum hydride was quenched by successive, dropwise additions of 4 mL of water, 4 mL of a 15% sodium hydroxide solution, and 12 mL of water. The solution was allowed to stir for 30 min, filtered, and the filtrate concentrated under reduced pressure to yield 11.5 g (98%) of an off-white solid. A portion of the solid was recrystallized from ethyl acetate/petroleum ether (30°-60° C.) to give the title compound as a white solid, mp 103°-105° C.

reactant | 4-[bis(4-fluorophenyl)hydroxymethyl]-1-piperidinepentanoic acid ethyl ester | 0.040 mol, 16.8 g | C(C)OC(CCCCN1CCC(CC1)C(O)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)=O | C25H31F2NO3
reactant | lithium aluminum hydride | 0.100 mol, 3.8 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 4-[Bis(4-fluorophenyl)hydroxymethyl]-1-piperidinepentanol hemihydrate | 11.5 g, 98% | O.FC1=CC=C(C=C1)C(C1CCN(CC1)CCCCCO)(O)C1=CC=C(C=C1)F.FC1=CC=C(C=C1)C(C1=CC=C(C=C1)F)(O)C1CCN(CC1)CCCCCO | InChI=1S/2C23H29F2NO2.H2O/c2*24-21-8-4-18(5-9-21)23(28,19-6-10-22(25)11-7-19)20-12-15-26(16-13-20)14-2-1-3-17-27;/h2*4-11,20,27-28H,1-3,12-17H2;1H2
